data/oMe_Silver.jsonl
{"reaction_id": "NR-221_1-C(C)C_2-c4ccc([N+](=O)[O-])cc4","level": "hard","name": "Pictet-Spengler Reaction","reactants_smiles": ["NCCC1=CNC2=C1C=CC=C2","O=C(C(C)C)(c4ccc([N+](=O)[O-])cc4)"],"products_smiles": ["C1(C(C)C)(c4ccc([N+](=O)[O-])cc4)NCCC2=C1NC3=C2C=CC=C3"],"conditions": null,"mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)C)(c4ccc([N+](=O)[O-])cc4)=[NH+]C(CC1=CNC2=C1C=CC=C2)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by the electron-withdrawing effect of C(C)C and c4ccc([N+](=O)[O-])cc4, forming an iminium ion stabilized by resonance with the nitrogen."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C1(C(C)C)(c4ccc([N+](=O)[O-])cc4)NCCC2C1=[NH+]C3=C2C=CC=C3","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, driven by the strong electrophilicity of the iminium and the proximity in the tethered intermediate, favoring intramolecular cyclization."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(C(C)C)(c4ccc([N+](=O)[O-])cc4)NCCC2=C1NC3=C2C=CC=C3","step_weight": 0,"rationale": "Deprotonation adjacent to the nitrogen restores aromaticity, a thermodynamically favored process, stabilizing the fused heteroaromatic system."}],"description": "The Pictet–Spengler reaction proceeds via iminium ion formation from the amine and carbonyl, followed by intramolecular electrophilic aromatic substitution to form the fused heterocycle, and concludes with deprotonation to restore aromaticity and yield the stable product."}
{"reaction_id": "NR-103_1-S(=O)(=O)N(C)C_2-C(F)(F)F_3-c2ccc(OC)cc2_4-C(C)CC_5-C(F)(F)F","level": "medium","name": "Hass-Bender Oxidation","reactants_smiles": ["BrCc1c(S(=O)(=O)N(C)C)c(C(F)(F)F)c(c2ccc(OC)cc2)c(C(C)CC)c1C(F)(F)F","CC(C)[N+](=O)[O-]","[Na+].[O-]CC"],"products_smiles": ["O=Cc1c(S(=O)(=O)N(C)C)c(C(F)(F)F)c(c2ccc(OC)cc2)c(C(C)CC)c1C(F)(F)F"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The α-proton of the nitroalkane is acidic due to resonance stabilization of the resulting nitronate anion by the electron-withdrawing nitro group, allowing base-induced deprotonation."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+]([O-])(=C(C)C)OCc1c(S(=O)(=O)N(C)C)c(C(F)(F)F)c(c2ccc(OC)cc2)c(C(C)CC)c1C(F)(F)F","step_weight": 0,"rationale": "The nitronate anion acts as a strong nucleophile, attacking the benzylic carbon where the bromide is a good leaving group, aided by benzylic resonance stabilization of the transition state."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=Cc1c(S(=O)(=O)N(C)C)c(C(F)(F)F)c(c2ccc(OC)cc2)c(C(C)CC)c1C(F)(F)F","step_weight": 0,"rationale": "Elimination of the nitro group occurs because the benzylic position can stabilize the developing carbonyl through conjugation with the aromatic ring, making aldehyde formation thermodynamically favorable."}],"description": "In the Hass-Bender oxidation, the nitroalkane is deprotonated to form a nitronate anion, which then displaces the benzylic bromide via nucleophilic substitution. Subsequent elimination of the nitro group yields the aldehyde, driven by resonance stabilization of the aromatic carbonyl product."}
